### PR TITLE
[Merged by Bors] - feat: every s-finite measure is absolutely continuous w.r.t. some finite measure

### PR DESCRIPTION
**Pull request by RemyDegenne**
Also prove that every s-finite measure is the sum of a sigma-finite measure and a measure that takes only the values 0 and infinity.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/WithDensityFinite.lean [hunk 1]
```diff
@@ -0,0 +1,236 @@
...
+open scoped ENNReal
+
+namespace MeasureTheory
+
+variable {α : Type*} {mα : MeasurableSpace α}
+
+/-- A finite measure obtained from an s-finite measure `μ`, such that
+`μ = μ.toFinite.withDensity μ.densityToFinite` (see `withDensity_densitytoFinite`). -/
+noncomputable def Measure.toFinite (μ : Measure α) [SFinite μ] : Measure α :=
+  Measure.sum (fun n ↦ (2 ^ (n + 1) * sFiniteSeq μ n Set.univ)⁻¹ • sFiniteSeq μ n)
```
Comment (JasonKYi) [inline Mathlib/MeasureTheory/Measure/WithDensityFinite.lean:51]: I think it'd be nice if you can filter out all the zero measures so that Measure.toFinite is a probability measure.

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/WithDensityFinite.lean:51]: But there might be only finitely many non-zero measures, so the sum of the `2 ^ (-(n+1))` would not be 1 anyway. Perhaps a better way to get that result is to simply rescale the resulting finite measure to turn in into a probability measure (unless it is zero of course, which happens if µ is zero).

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/WithDensityFinite.lean:52]: Done! `toFinite` is now a probability measure, unless it is zero.

File: Mathlib/MeasureTheory/Measure/WithDensityFinite.lean [hunk 2]
```diff
@@ -45,33 +47,47 @@ namespace MeasureTheory
...
   Measure.sum (fun n ↦ (2 ^ (n + 1) * sFiniteSeq μ n Set.univ)⁻¹ • sFiniteSeq μ n)
 
-lemma toFinite_apply (μ : Measure α) [SFinite μ] (s : Set α) :
-    μ.toFinite s = ∑' n, (2 ^ (n + 1) * sFiniteSeq μ n Set.univ)⁻¹ * sFiniteSeq μ n s := by
-  rw [Measure.toFinite, Measure.sum_apply_of_countable]; rfl
+/-- A finite measure obtained from an s-finite measure `μ`, such that
+`μ = μ.toFinite.withDensity μ.densityToFinite` (see `withDensity_densitytoFinite`).
+If `μ` is non-zero, this is a probability measure. -/
+noncomputable def Measure.toFinite (μ : Measure α) [SFinite μ] : Measure α :=
+  (μ.toFiniteAux Set.univ)⁻¹ • μ.toFiniteAux
```
Comment (JasonKYi) [inline Mathlib/MeasureTheory/Measure/WithDensityFinite.lean:58]: It might be good to define this using [ProbabilityTheory.cond](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/ConditionalProbability.html#ProbabilityTheory.cond) which gives finite measure for free

File: Mathlib/MeasureTheory/Measure/WithDensityFinite.lean [hunk 3]
```diff
@@ -0,0 +1,294 @@
...
+
+## Main definitions
+
+In all these definitions and the results below, `μ` is an s-finite measure (`SFinite μ`).
+
+* `MeasureTheory.Measure.toFinite`: a finite measure with `μ ≪ μ.toFinite` and `μ.toFinite ≪ μ`.
+  If `μ ≠ 0`, this is a probabilty measure.
+* `MeasureTheory.Measure.densityToFinite`: a measurable function such that
+  `μ = μ.toFinite.withDensity μ.densityToFinite`.
+* `MeasureTheory.Measure.toSigmaFinite`: a sigma-finite measure with `μ ≪ μ.toSigmaFinite` and
```
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/WithDensityFinite.lean:26]: Those two sets and the properties of the restrictions (sigma-finite for one, 0/infty for the other) are the content of my next planned PR. Sorry for not having an overview PR for everything. I am not very organized with these contributions.

I agree that `toSigmaFinite` might not be useful. I defined it while writing that code without thinking much about its uses, perhaps only because it felt like a natural thing to define. I'll delete it.

**Comment by RemyDegenne** [comment]
I have significantly reworked this PR: `toSigmaFinite` and the associated functions are gone. I added the definition `sigmaFiniteSet`, a set on which an s-finite measure is sigma-finite, and outside of which the measure takes only values 0 and infinity.

File: Mathlib/MeasureTheory/Measure/WithDensityFinite.lean [hunk 4]
```diff
@@ -0,0 +1,282 @@
...
+  rw [restrict_compl_sigmaFiniteSet]
+  simp only [Measure.smul_toOuterMeasure, OuterMeasure.coe_smul, Pi.smul_apply, smul_eq_mul,
+    mul_eq_zero, ENNReal.top_ne_zero, false_or]
+  rw [Measure.restrict_apply' (measurableSet_sigmaFiniteSet μ).compl]
+  by_cases h_zero : μ.toFinite (s ∩ μ.sigmaFiniteSetᶜ) = 0
+  · exact Or.inl h_zero
+  · exact Or.inr (ENNReal.top_mul h_zero)
+
+lemma measure_eq_zero_or_top_of_subset_compl_sigmaFiniteSet [SFinite μ]
+    (ht : MeasurableSet t) (ht_subset : t ⊆ μ.sigmaFiniteSetᶜ) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/WithDensityFinite.lean:226]: You can remove `ht` if you use `Measure.restrict_apply'` in the proof.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
